US06852752B2
To a solution of methyl bromoacetate (5 g, 32.7 mmol) in DCM (150 mL) was added 2-(1-cyclohexenyl)ethylamine (11.4 ml, 81.71 mmol) over 5 min. After 2 h, the solvent was removed and the residue purified on silica gel (Merck 60; (1:9) ethyl acetate/hexane) to afford methyl 2-[N-(2-cyclohex-1-enyl)ethylamino]acetate (5.0 g, 78%).

reactant | methyl bromoacetate | 32.7 mmol, 5 g | BrCC(=O)OC | C3H5BrO2
reactant | 2-(1-cyclohexenyl)ethylamine | 81.71 mmol, 11.4 ml | C1(=CCCCC1)CCN | C8H15N
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-[N-(2-cyclohex-1-enyl)ethylamino]acetate | 5.0 g, 78% | C1=C(CCCC1)CCNCC(=O)OC | C11H19NO2
